US06518423B1
4-Allyl-1-(tert-butoxycarbonyl)piperidin-4-ol
Into a solution of 4.98 g of 1-(tert-butoxycarbonyl)-4-piperidone in diethyl ether (150 ml) was dropped at 0° C. in a nitrogen atmosphere 30 ml of a 1.0 M solution of allylmagnesium bromide in diethyl ether and the resulting mixture was stirred for 3 hours. Then the reaction mixture was poured into an aqueous solution of sodium dihydrogenphosphate and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 4.12 g of the title compound as a white solid.

reactant | 1-(tert-butoxycarbonyl)-4-piperidone | 4.98 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | allylmagnesium bromide | C(C=C)[Mg]Br
reactant | sodium dihydrogenphosphate | P(=O)(O)(O)[O-].[Na+]
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 4-Allyl-1-(tert-butoxycarbonyl)piperidin-4-ol | 4.12 g | C(C=C)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C13H23NO3
